US08802679B2
3-Methoxypropan-1-ol (88 mg) was dissolved in THF (3 ml), and NaH (60 mg) was added thereto, followed by stirring at room temperature for 10 minutes. 4-Nitrophenyl 4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazine-1-carboxylate (250 mg) was added thereto, followed by stirring at room temperature for 1 hour. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc). The product was dissolved in EtOH, and 4 M hydrogen chloride/EtOAc was added thereto, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and then a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CHCl3/MeOH). The obtained residue was dissolved in EtOH, and L-tartaric acid (26 mg) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain 3-methoxypropyl 4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazine-1-carboxylate L-tartrate (60 mg).

reactant | 3-Methoxypropan-1-ol | 88 mg | COCCCO | C4H10O2
reactant | NaH | 60 mg | [H-].[Na+]
reactant | 4-Nitrophenyl 4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazine-1-carboxylate | 250 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C30H35N7O7
reactant | water | O | H2O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-methoxypropyl 4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazine-1-carboxylate L-tartrate | 60 mg | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OCCCOC | InChI=1S/C23H32N6O4.C4H6O6/c1-27(21(30)14-24)17-18-5-3-6-19(13-18)20-15-25-22(26-16-20)28-7-9-29(10-8-28)23(31)33-12-4-11-32-2;5-1(3(7)8)2(6)4(9)10/h3,5-6,13,15-16H,4,7-12,14,17,24H2,1-2H3;1-2,5-6H,(H,7,8)(H,9,10)/t;1-,2-/m.1/s1
